data/oMe_Silver.jsonl
{"reaction_id": "NR-117_1-C(C)C_2-c1ccccc1_3-Cl_4-C1CCCCC1_5-C1CC1","name": "Johnson-Claisen Rearrangement","level": "medium","reactants_smiles": ["C(=C(Cl)c1ccccc1)(C(C)C)C(C1CCCCC1)(C1CC1)O","C(C)(OC)(OC)OC"],"products_smiles": ["C(C(=O)OC)C(C1CCCCC1)(C1CC1)C(Cl)=C(C(C)C)c1ccccc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(OC)(OC)[OH+]C","rationale": "Acid protonates the orthoester oxygen, increasing the electrophilicity of the adjacent carbon via inductive withdrawal and making it more susceptible to C–O bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C)(OC)(OC)","rationale": "Heterolytic cleavage occurs because the protonated oxygen stabilizes the leaving group, generating a carbocation stabilized by adjacent alkoxy groups through resonance donation."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[OH+](C(C1CCCCC1)(C1CC1)C(Cl)=C(C(C)C)c1ccccc1)C(C)(OC)OC","rationale": "The allylic alcohol oxygen attacks the carbocation, favored by the strong electrophilicity of the cation and the nucleophilicity of the alcohol under acidic conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C1CCCCC1)(C1CC1)C(Cl)=C(C(C)C)c1ccccc1)C(C)([OH+]C)OC","rationale": "Proton transfer from the newly bound alcohol oxygen to an adjacent alkoxy group facilitates further activation and rearrangement by generating a better leaving group."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(OC)C)OC(C1CCCCC1)(C1CC1)C(Cl)=C(C(C)C)c1ccccc1","rationale": "Another proton transfer generates the enol ether intermediate, driven by the stability of the conjugated alkene–ether system and relief of positive charge."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(C(=O)OC)C(C1CCCCC1)(C1CC1)C(Cl)=C(C(C)C)c1ccccc1","rationale": "The [3,3]-sigmatropic rearrangement proceeds thermally due to favorable orbital overlap, forming a more stable carbonyl-containing product via conjugation and bond reorganization."}],"description": "Under acidic conditions, the Johnson–Claisen rearrangement proceeds via protonation and activation of the orthoester, generating an electrophilic species that reacts with the allylic alcohol. Subsequent proton transfers set up an enol ether intermediate, which undergoes a [3,3]-sigmatropic rearrangement to yield the γ,δ-unsaturated ester."}
{"reaction_id": "NR-034_1-C(F)(F)F_2-C1=CC=C(C=C1)C2=CC=CC=C2_3-c1ccccc1_4-C1CCOC1","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(C(F)(F)F)(C1=CC=C(C=C1)C2=CC=CC=C2)(O)C(c1ccccc1)(C1CCOC1)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(C(F)(F)F)(C1=CC=C(C=C1)C2=CC=CC=C2)=C(c1ccccc1)(C1CCOC1)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(C(F)(F)F)(C1=CC=C(C=C1)C2=CC=CC=C2)C(c1ccccc1)(C1CCOC1))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(C(F)(F)F)(C1=CC=C(C=C1)C2=CC=CC=C2)C(c1ccccc1)(C1CCOC1)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(F)(F)F)(C1=CC=C(C=C1)C2=CC=CC=C2)=C(c1ccccc1)(C1CCOC1)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
